US07973175B2
(2S,4S,5R)-4-Acetyl-5-[4-methoxy-3-(3-methoxy-propoxy)-phenyl]-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2 t-butyl ester.
In a similar fashion (2S,4S,5R)-4-Acetyl-5-[4-methoxy-3-(3-methoxy-propoxy)phenyl]-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester benzyl ester can be prepared from 4-Acetyl-5-[4-methoxy-3-(3-methoxy-propoxy)-phenyl]-pyrrolidine-2-carboxylic acid benzyl ester, 1H-NMR, δ CDCl3: 7.40 (5H, m, Ph), 7.19 (1H, m, Ph), 7.00 & 6.95 (1H, m, Ph rotamers), 6.80 (1H, m, Ph), 5.45-5.15 (3H, m, PhCH & PhCH2), 4.45 & 4.35 (1H, m, NCHCO2— rotamers), 4.10 (2H, m, CH2O), 3.84 (3H, s, MeO), 3.58 (2H, t, CH2O), 3.49 (1H, S, CHCO), 3.35 (3H, s, MeO), 2.62 (2H, m, CH2-ring), 2.30 (2H, m, CH2), 2.09 (3H, s, CH3), 1.35-1.20 (9H, m, t-Bu rotamers).

reactant | (2S,4S,5R)-4-Acetyl-5-[4-methoxy-3-(3-methoxy-propoxy)phenyl]-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester benzyl ester | C(C1=CC=CC=C1)OC(=O)[C@H]1N([C@H]([C@H](C1)C(C)=O)C1=CC(=C(C=C1)OC)OCCCOC)C(=O)OC(C)(C)C | C30H39NO8
reactant | 4-Acetyl-5-[4-methoxy-3-(3-methoxy-propoxy)-phenyl]-pyrrolidine-2-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)C1NC(C(C1)C(C)=O)C1=CC(=C(C=C1)OC)OCCCOC | C25H31NO6
product | (2S,4S,5R)-4-Acetyl-5-[4-methoxy-3-(3-methoxy-propoxy)-phenyl]-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2 t-butyl ester | C(C)(C)(C)OC(=O)[C@H]1N([C@H]([C@H](C1)C(C)=O)C1=CC(=C(C=C1)OC)OCCCOC)C(=O)OC(C)(C)C | C27H41NO8
